US09079880B2
Add ((S)-2-amino-4,5,6,7-tetrahydro-benzothiazol-6-yl)-carbamic acid tert-butyl ester (0.10 g, 0.37 mmol) followed by O-(7-aza-benzotriazole-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (0.13 g, 0.34 mmol) and N,N-diisopropylethyl (0.13 mL, 0.70 mmol) amine to a solution of 3-[(4-cyano-phenylcarbamoyl)-methoxy]-benzoic acid (0.10 g, 0.34 mmol) in N,N-dimethylacetamide (3 mL). Heat the mixture to 50° C. for 2 h then cool to room temperature and dilute with water causing a solid to precipitate from solution. Collect the light yellow solid by filtration, wash with water, and dry on the filter pad to provide 0.14 g of ((S)-2-{3-[(4-cyano-phenylcarbamoyl)-methoxy]-benzoylamino}-4,5,6,7-tetrahydro-benzothiazol-6-yl)-carbamic acid tert-butyl ester.

reactant | ((S)-2-amino-4,5,6,7-tetrahydro-benzothiazol-6-yl)-carbamic acid tert-butyl ester | 0.37 mmol, 0.10 g | C(C)(C)(C)OC(N[C@@H]1CC2=C(N=C(S2)N)CC1)=O | C12H19N3O2S
reactant | 3-[(4-cyano-phenylcarbamoyl)-methoxy]-benzoic acid | 0.34 mmol, 0.10 g | C(#N)C1=CC=C(C=C1)NC(=O)COC=1C=C(C(=O)O)C=CC1 | C16H12N2O4
solvent | N,N-dimethylacetamide | 3 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | ((S)-2-{3-[(4-cyano-phenylcarbamoyl)-methoxy]-benzoylamino}-4,5,6,7-tetrahydro-benzothiazol-6-yl)-carbamic acid tert-butyl ester | 0.14 g | C(C)(C)(C)OC(N[C@@H]1CC2=C(N=C(S2)NC(C2=CC(=CC=C2)OCC(NC2=CC=C(C=C2)C#N)=O)=O)CC1)=O | C28H29N5O5S
